.subckt fsdpq_x1 Q CK D SI SE VDD VSS
XFSDPQ_sei_P0 FSDPQ_se_b SE VDD VDD pmos w=2u l=100n
XFSDPQ_sei_N0 FSDPQ_se_b SE VSS VSS nmos w=1u l=100n
XFSDPQ_smx_MP0 FSDPQ_din SE D VDD pmos w=2u l=100n
XFSDPQ_smx_MN0 FSDPQ_din FSDPQ_se_b D VSS nmos w=1u l=100n
XFSDPQ_smx_MP1 FSDPQ_din FSDPQ_se_b SI VDD pmos w=2u l=100n
XFSDPQ_smx_MN1 FSDPQ_din SE SI VSS nmos w=1u l=100n
XFSDPQ_ck_P0 FSDPQ_ck_b CK VDD VDD pmos w=2u l=100n
XFSDPQ_ck_N0 FSDPQ_ck_b CK VSS VSS nmos w=1u l=100n
XFSDPQ_m_in_P FSDPQ_m_n1 CK FSDPQ_din VDD pmos w=2u l=100n
XFSDPQ_m_in_N FSDPQ_m_n1 FSDPQ_ck_b FSDPQ_din VSS nmos w=1u l=100n
XFSDPQ_m_i1_P0 FSDPQ_m_n2 FSDPQ_m_n1 VDD VDD pmos w=2u l=100n
XFSDPQ_m_i1_N0 FSDPQ_m_n2 FSDPQ_m_n1 VSS VSS nmos w=1u l=100n
XFSDPQ_m_i2_P0 FSDPQ_m_n1 FSDPQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDPQ_m_i2_N0 FSDPQ_m_n1 FSDPQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDPQ_m_fb_P FSDPQ_m_n1 FSDPQ_ck_b FSDPQ_m_n2 VDD pmos w=2u l=100n
XFSDPQ_m_fb_N FSDPQ_m_n1 CK FSDPQ_m_n2 VSS nmos w=1u l=100n
XFSDPQ_m_o_P0 FSDPQ_qm FSDPQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDPQ_m_o_N0 FSDPQ_qm FSDPQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDPQ_s_in_P FSDPQ_s_n1 FSDPQ_ck_b FSDPQ_qm VDD pmos w=2u l=100n
XFSDPQ_s_in_N FSDPQ_s_n1 CK FSDPQ_qm VSS nmos w=1u l=100n
XFSDPQ_s_i1_P0 FSDPQ_s_n2 FSDPQ_s_n1 VDD VDD pmos w=2u l=100n
XFSDPQ_s_i1_N0 FSDPQ_s_n2 FSDPQ_s_n1 VSS VSS nmos w=1u l=100n
XFSDPQ_s_i2_P0 FSDPQ_s_n1 FSDPQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDPQ_s_i2_N0 FSDPQ_s_n1 FSDPQ_s_n2 VSS VSS nmos w=1u l=100n
XFSDPQ_s_fb_P FSDPQ_s_n1 CK FSDPQ_s_n2 VDD pmos w=2u l=100n
XFSDPQ_s_fb_N FSDPQ_s_n1 FSDPQ_ck_b FSDPQ_s_n2 VSS nmos w=1u l=100n
XFSDPQ_s_o_P0 Q FSDPQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDPQ_s_o_N0 Q FSDPQ_s_n2 VSS VSS nmos w=1u l=100n
.ends fsdpq_x1
